US05977105
d) (±)-1-(3'-Fluorobiphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol
Hydrofluoric acid (40%, 4 ml) was added to a solution of (±)-3-(4-(3'-fluorobiphenyl-4-yloxy)-3-(tert-butyldimethylsilyloxy)butyl)pyridine in acetonitrile (30 ml) and the mixture stirred for 2 days. The solution was neutralised by careful addition to a saturated aqueous solution of sodium bicarbonate (200 ml). The mixture was extracted with ethyl acetate, the organic extract dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified twice by column chromatography over silica eluting with dichloromethane then ethyl acetate to give the title compound as a white powder (0.33 g).

reactant | Hydrofluoric acid | 4 ml | F | FH
reactant | (±)-3-(4-(3'-fluorobiphenyl-4-yloxy)-3-(tert-butyldimethylsilyloxy)butyl)pyridine | FC=1C=C(C=CC1)C1=CC=C(C=C1)OCC(CCC=1C=NC=CC1)O[Si](C)(C)C(C)(C)C | C27H34FNO2Si
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | (±)-1-(3'-Fluorobiphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol | 0.33 g | FC=1C=C(C=CC1)C1=CC=C(C=C1)OCC(CCC=1C=NC=CC1)O | C21H20FNO2
